US06900215B2
To 3-tributylstannyl-7-trifluoromethylimidazo[1,2-α]pyrimidine (73 ml of a 0.13M solution in tetrahydrofuran, 9.44 mmol) was added 5-bromo-2-fluoronitrobenzene (4.20 g, 19 mmol) followed by tetrakis(triphenylphosphine) palladium(0) (0.62 g). The resulting mixture was heated at reflux for 4 h. The solvent was evaporated at reduced pressure and the residue chromatographed on silica gel eluting with 30% ethyl acetate in dichloromethane to afford 3-(4-fluoro-3-nitrophenyl)-7-trifluoromethylimidazo[1,2-α]pyrimidine: δH (400 MHz, DMSO) 7.59 (1H, d, J 7), 7.83 (1H, dd, J 11 and 9), 8.18 (1H, m), 8.36 (1H, s), 8.53 (1H, dd, J 7 and 2), 9.36 (1H, d, J 7); m/z (ES+) 327 (M++H).

reactant | 3-tributylstannyl-7-trifluoromethylimidazo[1,2-α]pyrimidine | C(CCC)[Sn](C1=CN=C2N1C=CC(=N2)C(F)(F)F)(CCCC)CCCC
reactant | 5-bromo-2-fluoronitrobenzene | 19 mmol, 4.20 g | BrC=1C=CC(=C(C1)[N+](=O)[O-])F | C6H3BrFNO2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
catalyst | tetrakis(triphenylphosphine) palladium(0) | 0.62 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 3-(4-fluoro-3-nitrophenyl)-7-trifluoromethylimidazo[1,2-α]pyrimidine | FC1=C(C=C(C=C1)C1=CN=C2N1C=CC(=N2)C(F)(F)F)[N+](=O)[O-] | C13H6F4N4O2
